US06900210B2
Preparation of (S)-1-[3-(pyrimidin-5-yloxy)-phenyl]-ethylamine
A mixture of (S)-[1-(3-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (1 g, 4.2 mmol), 5-bromo-pyrimidine (0.8 g, 5.1 mmol), potassium carbonate (powder, 1.4 g, 10.1 mmol), copper iodide (325 mesh powder, 0.6 g, 3.2 mmol) and pyridine (5 mL) was heated at 115° C. for 24 h. CH2Cl2 (100 mL) was added, the reaction mixture was filtered through celite, rinsed with CH2Cl2 (2×50 mL), and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 1:1/Hexane:EtOAc to give the title product (0.81 g, 61% yield).

reactant | (S)-[1-(3-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 4.2 mmol, 1 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)O)=O | C13H19NO3
reactant | 5-bromo-pyrimidine | 5.1 mmol, 0.8 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper iodide | 3.2 mmol, 0.6 g | [Cu](I)I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-[3-(pyrimidin-5-yloxy)-phenyl]-ethylamine | 0.81 g, 61% yield | N1=CN=CC(=C1)OC=1C=C(C=CC1)[C@H](C)N | C12H13N3O
